US04621089
Ethyl 7-anilino-1H-pyrazolo[4,3-b]pyridine-6-carboxylate
Ethyl 7-chloro-1H-pyrazolo[4,3-b]-pyridine-6-carboxylate (370 mg, 1.6 mmol) was dissolved in aniline (3 ml) and stirred overnight. The resulting mixture was triturated with 60°-80° petrol, and the precipitated solid was collected and dissolved in aqueous ethanol. The solution was adjusted to pH 8 with saturated sodium hydrogen carbonate solution, and the precipitated solid was collected to give the title compound (310 mg, 67%) m.p. 164°-165° C.

reactant | Ethyl 7-chloro-1H-pyrazolo[4,3-b]-pyridine-6-carboxylate | 1.6 mmol, 370 mg | ClC1=C2C(=NC=C1C(=O)OCC)C=NN2 | C9H8ClN3O2
reactant | aniline | 3 ml | NC1=CC=CC=C1 | C6H7N
product | Ethyl 7-anilino-1H-pyrazolo[4,3-b]pyridine-6-carboxylate | 310 mg, 67% | N(C1=CC=CC=C1)C1=C2C(=NC=C1C(=O)OCC)C=NN2 | C15H14N4O2
